US05250678
To a stirred solution of tri(3,4-dichlorophenyl)bismuthine (163 mg., 0.25 mmol.) in CH2Cl2 (2 mL.) was added bis(trifluoroacetoxy)iodobenzene (107 mg., 0.25 mmol.). The mixture was stirred for 15 minutes then treated with Cu(OAc)2 followed by a solution of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg., 0.126 mmol.) in CH2Cl2 (2 mL.). After stirring an additional 2 hours the reaction mixture was quenched by addition of saturated aqueous NaHCO3 and extracted 2× with CH2Cl2. The organic extracts were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The product was separated and purified by preparative TLC on silica (eluted with 3:1 Hexane/Acetone) to give 51 mg 17-ethyl-1,14-dihydroxy-12-[2'-(4 "-(3'",4'"-dichlorophenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (1H NMR, 13H NMR, and mass spectral analysis are consistent with the desired structure).

reactant | tri(3,4-dichlorophenyl)bismuthine | 0.25 mmol, 163 mg | ClC=1C=C(C=CC1Cl)[Bi](C1=CC(=C(C=C1)Cl)Cl)C1=CC(=C(C=C1)Cl)Cl
reactant | bis(trifluoroacetoxy)iodobenzene | 0.25 mmol, 107 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.126 mmol, 100 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4 "-(3'",4'"-dichlorophenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 51 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC(=C(C=C2)Cl)Cl)OC)C)C)O)=O | C49H71Cl2NO12
